US07468375B2
To a stirring solution of methyl 1-(4-fluorobenzyl)-3-{[2-(2-oxopyrrolidin-1-yl)ethoxy]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (0.915 g, 2.15 mmol) in methanol (25 mL) was added 3M LiOH(aq) (2.15 mL, 6.45 mmol). The clear reaction was warmed to 50° C. for 16 hours. After 16 hours a 50° C. the reaction was acidified to pH 4 by the addition of 1M HCl(aq). The solvent was evaporated in vacuo and the white residue stirred in water (50 mL) for 1 hour. The solid was filtered, washed with water, and dried under heat and vacuum to yield 1-(4-fluorobenzyl)-3-{[2-(2oxopyrrolidin-1-yl)ethoxy]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid as a white solid (0.829 g, 94% yield). 1H NMR (400 MHz, DMSO-D6) δ ppm 1.76-1.85 (m, 2H) 2.13 (t, J=8.08 Hz, 2H) 3.31 (ddd, J=13.77, 6.69, 6.32 Hz, 4H) 3.52 (t, J=5.43 Hz, 2H) 4.66 (s, 2H) 5.57 (s, 2H) 7.16 (t, J=8.84 Hz, 2H) 7.35 (dd, J=8.46, 5.68 Hz, 2H) 7.86 (s, 1H) 8.33 (s, 1H) 8.95 (s, 1H).

reactant | methyl 1-(4-fluorobenzyl)-3-{[2-(2-oxopyrrolidin-1-yl)ethoxy]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 2.15 mmol, 0.915 g | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)OC)COCCN3C(CCC3)=O)C=C1 | C23H24FN3O4
reactant | LiOH | 6.45 mmol, 3M, 2.15 mL | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
product | 1-(4-fluorobenzyl)-3-{[2-(2oxopyrrolidin-1-yl)ethoxy]methyl}-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | 0.829 g, 94% yield | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)O)COCCN3C(CCC3)=O)C=C1 | C22H22FN3O4
